US05286736
6-[3-(3-(4-Chlorophenyl)-ureido)-phenyl]-6-(3-pyridyl)-hex-5-enoic acid
2.4 g of methyl 6-(3-aminophenyl)-6-(3-pyridyl)-hex-5-enoate and 1.5 g of 4-chlorophenylisocyanate are stirred in 50 ml of tetrahydrofuran at ambient temperature for one hour. The reaction mixture is evaporated down, the residue is mixed with water and extracted with ethyl acetate/ethanol (9:I). The organic phase is evaporated down and the residue is saponified in 60 ml of ethanol and 6 ml of 4N sodium hydroxide solution at 50° C. for one hour. The reaction mixture is evaporated down, the residue is taken up in 100 ml of water and extracted with ethyl acetate. The aqueous phase is neutralised by the addition of citric acid, whereupon the product is precipitated. The precipitate is suction filtered, washed with water and diisopropylether and recrystallised from ethyl acetate/diisopropylether.

reactant | methyl 6-(3-aminophenyl)-6-(3-pyridyl)-hex-5-enoate | 2.4 g | NC=1C=C(C=CC1)C(=CCCCC(=O)OC)C=1C=NC=CC1 | C18H20N2O2
reactant | 4-chlorophenylisocyanate | 1.5 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 6-[3-(3-(4-Chlorophenyl)-ureido)-phenyl]-6-(3-pyridyl)-hex-5-enoic acid | ClC1=CC=C(C=C1)NC(NC=1C=C(C=CC1)C(=CCCCC(=O)O)C=1C=NC=CC1)=O | C24H22ClN3O3
